US07626021B2
14 mg (35 mol) of 3-chloro-2-hydroxy-5-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-benzoic acid and 22 μL (approx. 120 μmol; density unknown) of 1-(2-diethylaminoethyl)-piperazine were dissolved in a mixture of 1 mL of acetonitrile and 100 μL of DMF. 14 mg (55 μmol) of bis(2-oxo-3-oxazolidinyl)phosphinic chloride was added and the mixture heated gently until all materials were dissolved. The resulting solution was left at ambient temperature for 4.5 h. 28 mg (110 μmol) of bis(2-oxo-3-oxazolidinyl)phosphinic chloride was added and the resulting mixture left at ambient temperature for 3.5 h, then heated to 75° C. for 3.5 h. The resulting mixture was distributed between 1 mL of a saturated aqueous solution of sodium bicarbonate in water and 2 mL of ethyl acetate. The organic phase was evaporated and the residue directly purified by mass-triggered reverse-phase HPLC to afford 3.2 mg (5.7 μmol, 17%) of {3-chloro-2-hydroxy-5-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-[4-(2-diethylamino-ethyl)-piperazin-1-yl]-methanone as an off-white solid. 1H NMR (500 MHz, DMSO-d6) δ 13.80 (s, br. 1H), 8.81 (d, 1H), 8.29 (d, 1H), 7.82 (d, 1H), 7.64 (dd, 1H), 7.49-7.44 (m, 2H), 7.21 (d, 1H), 7.10 (ddd, 1H), 3.83 (s, 3H), 3.40-3.30 (m, 4H), 2.49-2.35 (m, 8H), 0.94 (t, 6H), MS: m/z 563.2 (M+H+).

reactant | 3-chloro-2-hydroxy-5-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-benzoic acid | 35 mol, 14 mg | ClC=1C(=C(C(=O)O)C=C(C1)C=1C=C2C(=NC1)NN=C2C2=C(C=CC=C2)OC)O | C20H14ClN3O4
reactant | 1-(2-diethylaminoethyl)-piperazine | approx. 120 μmol, 22 μL | C(C)N(CCN1CCNCC1)CC | C10H23N3
reactant | bis(2-oxo-3-oxazolidinyl)phosphinic chloride | 55 μmol, 14 mg | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
reactant | bis(2-oxo-3-oxazolidinyl)phosphinic chloride | 110 μmol, 28 mg | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
solvent | DMF | 100 μL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
product | {3-chloro-2-hydroxy-5-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-[4-(2-diethylamino-ethyl)-piperazin-1-yl]-methanone | 5.7 μmol, 3.2 mg, 17% | ClC=1C(=C(C=C(C1)C=1C=C2C(=NC1)NN=C2C2=C(C=CC=C2)OC)C(=O)N2CCN(CC2)CCN(CC)CC)O | C30H35ClN6O3
